US05214046
A solution of 3.0 g of 4-[(5-bromopentyl)oxy]benzophenone in 30 ml of ethanol was heated to 90° in a pressure tube for 1.5 hours with 16 ml of a 33 percent solution of dimethylamine in ethanol. After cooling the mixture was poured into water and extracted three times with ethyl acetate. The organic phases, dried over sodium sulphate, were evaporated and the residue was chromatographed on neutral aluminium oxide (activity grade III) with hexane:ethyl acetate (7:3). There were obtained 2.69 g (97%) of 4-[(5-(dimethylamino)pentyl)oxy]benzophenone as a colorless oil.

reactant | 4-[(5-bromopentyl)oxy]benzophenone | 3.0 g | BrCCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C18H19BrO2
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[(5-(dimethylamino)pentyl)oxy]benzophenone | 2.69 g, 97% | CN(CCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C | C20H25NO2
